US04483861
(4R)-3-[(2S)-S-(4-Methylbenzoyl)-2-mercaptopropanoyl]-4-thiazolidinecarboxylic acid (Compound 19)
2.2 g of (4R)-3-[(2S)-2-mercaptopropanoyl]-4-thiazolidinecarboxylic acid and 2.8 g of potassium carbonate are dissolved in 50 ml of water. To this solution, 1.6 g of p-toluoyl chloride is added dropwise with stirring under ice-cooling. After the addition, the mixture is stirred under ice-cooling for 1 hour and at room temperature for additional 1 hour. The reaction solution is washed with ethyl acetate, and acidified with conc. hydrochloric acid to give crystals. The crystals (the titled compound) are collected by filtration, yield 3.3 g (97%), mp. 166°-166.5° C. (ethyl acetate), [α]D25 -148.6°(c=1.1, methanol).

reactant | (4R)-3-[(2S)-2-mercaptopropanoyl]-4-thiazolidinecarboxylic acid | 2.2 g | S[C@H](C(=O)N1CSC[C@H]1C(=O)O)C | C7H11NO3S2
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-toluoyl chloride | 1.6 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | water | 50 ml | O | H2O
product | (4R)-3-[(2S)-S-(4-Methylbenzoyl)-2-mercaptopropanoyl]-4-thiazolidinecarboxylic acid | CC1=CC=C(C(=O)S[C@H](C(=O)N2CSC[C@H]2C(=O)O)C)C=C1 | C15H17NO4S2
